************************************************************************
* auCdl Netlist:
* 
* Library Name:  2024_project_circuit
* Top Cell Name: nand16_select_repeater_2nd
* View Name:     schematic
* Netlisted on:  Nov 29 03:14:03 2024
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.EQUATION
*.SCALE METER
*.MEGA



************************************************************************
* Library Name: 2024_project_circuit
* Cell Name:    nor2
* View Name:    schematic
************************************************************************

.SUBCKT nor2 in_A in_B out vdd vss
*.PININFO in_A:I in_B:I out:O vdd:B vss:B
MM1 out in_B vss vss nmos W=nw L=45n
MM0 out in_A vss vss nmos W=nw L=45n
MM3 out in_A net4 vdd pmos W=pw L=45n
MM2 net4 in_B vdd vdd pmos W=pw L=45n
.ENDS

************************************************************************
* Library Name: 2024_project_circuit
* Cell Name:    nand4
* View Name:    schematic
************************************************************************

.SUBCKT nand4 in_A in_B in_C in_D out vdd vss
*.PININFO in_A:I in_B:I in_C:I in_D:I out:O vdd:B vss:B
MM7 net56 in_D vss vss nmos W=nw L=45n
MM2 net54 in_C net56 vss nmos W=nw L=45n
MM1 net55 in_B net54 vss nmos W=nw L=45n
MM0 out in_A net55 vss nmos W=nw L=45n
MM6 out in_D vdd vdd pmos W=pw L=45n
MM5 out in_C vdd vdd pmos W=pw L=45n
MM4 out in_B vdd vdd pmos W=pw L=45n
MM3 out in_A vdd vdd pmos W=pw L=45n
.ENDS

************************************************************************
* Library Name: 2024_project_circuit
* Cell Name:    nand2
* View Name:    schematic
************************************************************************

.SUBCKT nand2 in_A in_B out vdd vss
*.PININFO in_A:I in_B:I out:O vdd:B vss:B
MM1 net7 in_B vss vss nmos W=nw L=45n
MM0 out in_A net7 vss nmos W=nw L=45n
MM3 out in_B vdd vdd pmos W=pw L=45n
MM2 out in_A vdd vdd pmos W=pw L=45n
.ENDS

************************************************************************
* Library Name: Test1
* Cell Name:    inverter
* View Name:    schematic
************************************************************************

.SUBCKT inverter in out vdd vss
*.PININFO in:I out:O vdd:B vss:B
MM0 out in vss vss nmos W=nw L=45n
MM1 out in vdd vdd pmos W=pw L=45n
.ENDS

************************************************************************
* Library Name: 2024_project_circuit
* Cell Name:    nand16_select_repeater_2nd
* View Name:    schematic
************************************************************************

*.PININFO in1:I out:O vdd:B vss:B
CC26 net031 vss 5f $[CP]
CC25 net030 vss 5f $[CP]
CC21 net029 vss 5f $[CP]
CC20 net028 vss 5f $[CP]
CC19 net027 vss 5f $[CP]
CC18 net026 vss 5f $[CP]
CC17 net025 vss 5f $[CP]
CC16 net024 vss 5f $[CP]
CC0 out vss 100f $[CP]
CC1 net207 vss 8.37f $[CP]
CC2 net206 vss 8.37f $[CP]
CC3 net205 vss 8.37f $[CP]
CC4 net204 vss 8.37f $[CP]
CC5 net203 vss 8.37f $[CP]
CC6 net202 vss 8.37f $[CP]
CC7 net201 vss 8.37f $[CP]
CC8 net200 vss 8.37f $[CP]
CC9 net199 vss 8.37f $[CP]
CC10 net198 vss 8.37f $[CP]
CC11 net197 vss 8.37f $[CP]
CC12 net196 vss 8.37f $[CP]
CC13 net195 vss 8.37f $[CP]
CC14 net194 vss 8.37f $[CP]
CC15 net193 vss 8.37f $[CP]
XI6 temp5 vss net024 vdd vss / nor2 pw=2.39e-06 nw=7.7e-07
XI9 temp5 vss net207 vdd vss / nor2 pw=2.39e-06 nw=7.7e-07
XI11 temp5 vss net206 vdd vss / nor2 pw=2.39e-06 nw=7.7e-07
XI12 temp5 vss net205 vdd vss / nor2 pw=2.39e-06 nw=7.7e-07
XI13 temp5 vss net204 vdd vss / nor2 pw=2.39e-06 nw=7.7e-07
XI14 temp5 vss net203 vdd vss / nor2 pw=2.39e-06 nw=7.7e-07
XI15 temp5 vss net202 vdd vss / nor2 pw=2.39e-06 nw=7.7e-07
XI17 temp5 vss net201 vdd vss / nor2 pw=2.39e-06 nw=7.7e-07
XI16 temp5 vss net200 vdd vss / nor2 pw=2.39e-06 nw=7.7e-07
XI18 temp5 vss net199 vdd vss / nor2 pw=2.39e-06 nw=7.7e-07
XI19 temp5 vss net198 vdd vss / nor2 pw=2.39e-06 nw=7.7e-07
XI20 temp5 vss net197 vdd vss / nor2 pw=2.39e-06 nw=7.7e-07
XI21 temp5 vss net196 vdd vss / nor2 pw=2.39e-06 nw=7.7e-07
XI23 temp5 vss net195 vdd vss / nor2 pw=2.39e-06 nw=7.7e-07
XI22 temp5 vss net194 vdd vss / nor2 pw=2.39e-06 nw=7.7e-07
XI24 temp5 vss net193 vdd vss / nor2 pw=2.39e-06 nw=7.7e-07
XI0 in1 vdd vdd vdd temp1 vdd vss / nand4 pw=1.86e-06 nw=4.8e-06
XI3 temp2 vdd vdd vdd temp5 vdd vss / nand4 pw=9.109999999999999e-06 
+ nw=2.352e-05
XI8 temp7 vdd vdd vdd temp8 vdd vss / nand4 pw=4.13e-06 nw=1.067e-05
XI10 temp9 vdd vdd vdd out vdd vss / nand4 pw=1.429e-05 nw=3.687e-05
XI7 net031 vdd temp7 vdd vss / nand2 pw=2.8e-06 nw=3.62e-06
XI2 temp8 vdd temp9 vdd vss / nand2 pw=9.69e-06 nw=1.25e-05
XI28 net048 net030 vdd vss / inverter pw=1.2e-06 nw=7.7e-07
XI27 net029 net048 vdd vss / inverter pw=1.2e-06 nw=7.7e-07
XI26 net049 net028 vdd vss / inverter pw=1.2e-06 nw=7.7e-07
XI5 net027 net049 vdd vss / inverter pw=1.2e-06 nw=7.7e-07
XI4 net050 net026 vdd vss / inverter pw=1.2e-06 nw=7.7e-07
XI25 net025 net050 vdd vss / inverter pw=1.2e-06 nw=7.7e-07
XI1 temp1 temp2 vdd vss / inverter pw=6.18e-06 nw=3.99e-06
RR4 net030 net031 5K $[RP]
RR2 net028 net029 5K $[RP]
RR1 net026 net027 5K $[RP]
RR0 net024 net025 5K $[RP]

